US09284323B2
A solution of (S)-ethyl 2-tert-butoxy-2-(3,6-dimethyl-1-(trifluoromethyl-sulfonyloxy) naphthalen-2-yl)acetate (1.8 g, 3.9 mmol) in THF (18.2 mL) pre-cooled to −10° C. was treated dropwise with tetrabutylammonium fluoride (1M in THF, 7.8 mL, 7.8 mmol). After 1 hour, saturated NaHCO3 was added and the mixture stirred for 20 minutes. Following extraction of the aqueous layer with EtOAc, the combined organics were washed with brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification via Yamazen silica gel column chromatography afforded (S)-ethyl 2-tert-butoxy-2-(1-hydroxy-3,6-dimethylnaphthalen-2-yl)acetate. LCMS-ESI− (m/z): [M−H]− calcd for C20H25O4: 329.4. found: 329.1.

reactant | (S)-ethyl 2-tert-butoxy-2-(3,6-dimethyl-1-(trifluoromethyl-sulfonyloxy) naphthalen-2-yl)acetate | 3.9 mmol, 1.8 g | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=C(C=C2C=C1C)C)OS(=O)(=O)C(F)(F)F | C21H25F3O6S
reactant | tetrabutylammonium fluoride | 7.8 mmol, 1M, 7.8 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 18.2 mL | C1CCOC1 | C4H8O
product | (S)-ethyl 2-tert-butoxy-2-(1-hydroxy-3,6-dimethylnaphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=C(C=C2C=C1C)C)O | C20H26O4
